US07005432B2
5-(3,5-Dichloro-phenyl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride
The title compound, MS: m/e=319.3 (M+H+), was prepared from 3,5-dichlorobenzeneboronic acid and 5-chloro-3-(2-methyl-imidazol-1-ylmethyl)-pyridazine.

reactant | 3,5-dichlorobenzeneboronic acid | ClC=1C=C(C=C(C1)Cl)B(O)O | C6H5BCl2O2
reactant | 5-chloro-3-(2-methyl-imidazol-1-ylmethyl)-pyridazine | ClC=1C=C(N=NC1)CN1C(=NC=C1)C | C9H9ClN4
product | 5-(3,5-Dichloro-phenyl)-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride | Cl.ClC=1C=C(C=C(C1)Cl)C=1C=C(N=NC1)CN1C(=NC=C1)C | InChI=1S/C15H12Cl2N4.ClH/c1-10-18-2-3-21(10)9-15-6-12(8-19-20-15)11-4-13(16)7-14(17)5-11;/h2-8H,9H2,1H3;1H
